US05334614
Using an analogous procedure to that described in Example 7 except that the reaction mixture was stirred at ambient temperature for 2 hours, 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl acetohydroxamate was reacted with 2-propynyl bromide to give 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl N-(2-propynyl)acetohydroxamate as a gum (80%).

reactant | 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl acetohydroxamate | C(C)(=O)NOC(C1=CC=C(C=C1)SC1=CC(=CC(=C1)F)C1(CCOCC1)OC)C | C22H26FNO4S
reactant | 2-propynyl bromide | C(C#C)Br | C3H3Br
product | 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl N-(2-propynyl)acetohydroxamate | 80% | C(C#C)N(OC(C1=CC=C(C=C1)SC1=CC(=CC(=C1)F)C1(CCOCC1)OC)C)C(C)=O | C25H28FNO4S
